US05532235
A mixture of 2 g (10 mmol) of 2,6-dimethoxybenzoyl chloride, 1.65 g (10 mmol) of ethyl 4-aminobenzoate, 1.11 g of triethylamine and 61 mg of 4-dimethylaminopyridine in 10 ml of dichloromethane is refluxed for 20 hours. The mixture is diluted with water and the organic layer separated. The organic layer is washed with water, 1N HCl, 1N Na2CO3, brine and dried (Na2SO4). The solvent is removed to give a solid which is crystallized from ethyl acetate to give 1.22 g of ethyl 4-[(2,6-dimethoxybenzoyl)amino]benzoate as crystals, m.p. 183°-185° C.

reactant | 2,6-dimethoxybenzoyl chloride | 10 mmol, 2 g | COC1=C(C(=O)Cl)C(=CC=C1)OC | C9H9ClO3
reactant | ethyl 4-aminobenzoate | 10 mmol, 1.65 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | triethylamine | 1.11 g | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 61 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | ethyl 4-[(2,6-dimethoxybenzoyl)amino]benzoate | 1.22 g | COC1=C(C(=O)NC2=CC=C(C(=O)OCC)C=C2)C(=CC=C1)OC | C18H19NO5
